US06673797B1
1-Cyclohexylmethyl-5-methanesulfonyl-2-(2-pyrimidinyl)-1H-pyrrolo[2,3-b]pyridine
To a suspension of 5-methanesulfonyl-2-(2-pyrimidinyl)-1H-pyrrolo[2,3-b]pyridine (150 mg) in N,N-dimethylformamide (5.5 ml), 60% sodium hydride (32.8 mg) was added at 0° C. under nitrogen atmosphere and the mixture was stirred at the same temperature for 30 minutes. Subsequently, to the mixture was added cyclohexylmethyl bromide (154 mg) at 0° C. and the mixture was stirred at 60° C. for 2 hours, followed by addition of cyclohexylmethyl bromide (77 mg) and stirring of the mixture at the same temperature for 1 hour. Further, to the mixture was added cyclohexylmethyl bromide (77 mg) and the mixture was stirred at 60° C. for 15 hours. Subsequently, the reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform. The organic layer was washed with a saturated aqueous NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel preparative thin-layer chromatography (methanol:chloroform=1:20) and further recrystallized (chloroform/hexane) to obtain 109 mg of the desired product as a white needle-like crystal.

reactant | 5-methanesulfonyl-2-(2-pyrimidinyl)-1H-pyrrolo[2,3-b]pyridine | 150 mg | CS(=O)(=O)C=1C=C2C(=NC1)NC(=C2)C2=NC=CC=N2 | C12H10N4O2S
reactant | sodium hydride | 32.8 mg | [H-].[Na+]
reactant | cyclohexylmethyl bromide | 154 mg | C1(CCCCC1)CBr | C7H13Br
reactant | cyclohexylmethyl bromide | 77 mg | C1(CCCCC1)CBr | C7H13Br
reactant | cyclohexylmethyl bromide | 77 mg | C1(CCCCC1)CBr | C7H13Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
product | 1-Cyclohexylmethyl-5-methanesulfonyl-2-(2-pyrimidinyl)-1H-pyrrolo[2,3-b]pyridine | 109 mg | C1(CCCCC1)CN1C(=CC=2C1=NC=C(C2)S(=O)(=O)C)C2=NC=CC=N2 | C19H22N4O2S
